US04523042
To a solution of 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol (1.6 g, 5 mmol), 1.06 g (10 mmol) of trimethyl orthoformate and 160 mg (5 mmol) of dry methanol in 5 ml of dry THF is added dropwise a solution of 40 μL of trifluoroacetic acid in 1 ml of dry THF over a 1 minute period at room temperature. After overnight standing, the reaction mixture is poured into cold aqueous 5% NaHCO3 and extracted with chloroform three times. The combined organic extract is washed with water, dried over Na2SO4 and evaporated in vacuo to give a residue, which is purified by HPLC (4% ether in hexane, silica gel column) to afford of 1-methoxy-2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene as an oil.

reactant | 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene-1-ol | 5 mmol, 1.6 g | CC(CO)=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C | C23H34O
reactant | trimethyl orthoformate | 10 mmol, 1.06 g | C(OC)(OC)OC | C4H10O3
reactant | methanol | 5 mmol, 160 mg | CO | CH4O
reactant | trifluoroacetic acid | 40 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-methoxy-2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene | COCC(=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C | C24H36O
